US04992432
A mixture of 1.1 g (0.003 mol) of rac.-trans-6-(acetyloxy)-6,7-dihydro-7-(4-methoxyphenyl) -3-phenyl-1,4-thiazepin-5(4H)-one, 0.5 g of potassium carbonate (powdered) and 0.3 g (0.003 mol) of 2-dimethylaminoethyl chloride in 25 mL of ethyl acetate was stirred and heated at reflux for 2 hrs, then twice an additional 0.15 g of 2-dimethylaminoethyl chloride was added at 2 hr intervals. The mixture was heated at reflux for a total of 12 hrs., cooled to room temperature and diluted with water. The aqueous suspension was extracted with ethyl acetate then the organic solution was washed with brine and dried (MgSO4). Removal of the solvent gave 1.2 g (92%) of rac.-trans-6-(acetyloxy)-6,7-dihydro-7-(4-methoxyphenyl) -4-[2-(dimethylamino)ethyl]-3-phenyl-1,4-thiazepin-5(4H) -one. Analytical sample was recrystallized from ether, mp 147°-148°.

reactant | rac.-trans-6-(acetyloxy)-6,7-dihydro-7-(4-methoxyphenyl) -3-phenyl-1,4-thiazepin-5(4H)-one | 0.003 mol, 1.1 g | C(C)(=O)O[C@@H]1C(NC(=CS[C@H]1C1=CC=C(C=C1)OC)C1=CC=CC=C1)=O | C20H19NO4S
reactant | potassium carbonate | 0.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-dimethylaminoethyl chloride | 0.003 mol, 0.3 g | CN(CCCl)C | C4H10ClN
reactant | 2-dimethylaminoethyl chloride | 0.15 g | CN(CCCl)C | C4H10ClN
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | rac.-trans-6-(acetyloxy)-6,7-dihydro-7-(4-methoxyphenyl) -4-[2-(dimethylamino)ethyl]-3-phenyl-1,4-thiazepin-5(4H) -one | 1.2 g, 92% | C(C)(=O)O[C@@H]1C(N(C(=CS[C@H]1C1=CC=C(C=C1)OC)C1=CC=CC=C1)CCN(C)C)=O | C24H28N2O4S
